US07935688B2
(1) Synthesis of 4-(4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenyl)-1,1,1-trifluoro-2-trifluoromethyl-3-butyn-2-ol
Trifluoroacetic acid (0.8 mL) was added to a solution of 2-(4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-methoxymethoxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (Example 25-(4); 284 mg, 0.464 mmol) in dichloromethane (4 mL) in a nitrogen atmosphere at room temperature, and the mixture was stirred at room temperature for six hours. Then, the reaction mixture was concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane:ethyl acetate=100:0 to 70:30) to give the target product as a colorless oil (142 mg, 54%).

reactant | Trifluoroacetic acid | 0.8 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-methoxymethoxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.464 mmol, 284 mg | C(C)C(CC)(C1=CC(=C(C=C1)C#CC(C(F)(F)F)(C(F)(F)F)OCOC)C)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C32H39BF6O4
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-(4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenyl)-1,1,1-trifluoro-2-trifluoromethyl-3-butyn-2-ol | 142 mg, 54% | C(C)C(CC)(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)C1=CC(=C(C=C1)C#CC(C(F)(F)F)(O)C(F)(F)F)C | C30H35BF6O3
